US07704995B2
To a 25 mL recovery flask was added 3-amino-6-{3-[(phenylmethyl)oxy]phenyl}pyrazine-2-carboxamide (33 mg, 0.103 mmol) and ethyl acetate (10 mL). A catalytic amount of 10% Pd/C was added. The flask was sealed with a septum and fitted with an H2 balloon. The reaction mixture was stirred overnight at room temperature. The reaction mixture was passed through a Celite pad. The filtrate was concentrated to give 3-amino-6-(3-hydroxyphenyl)pyrazine-2-carboxamide (23 mg, 96% yield) as a yeloow powder. 1H NMR (400 MHz, d6-DMSO): δ 9.47 (s, 1H), 8.74 (s, 1H), 7.55-7.53 (m, 1H), 7.46 (m, 1H), 7.25-7.22 (t, 1H), 6.78-6.76 (m, 1H); MS (EI) for C11H10N4O2: 231 (MH+).

reactant | 3-amino-6-{3-[(phenylmethyl)oxy]phenyl}pyrazine-2-carboxamide | 0.103 mmol, 33 mg | NC=1C(=NC(=CN1)C1=CC(=CC=C1)OCC1=CC=CC=C1)C(=O)N | C18H16N4O2
catalyst | Pd/C | [Pd] | Pd
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 3-amino-6-(3-hydroxyphenyl)pyrazine-2-carboxamide | 23 mg, 96% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)O)C(=O)N | C11H10N4O2
